US08193207B2
Benzoyl chloride (15 μL, 0.00013 mol) was added to a solution of 2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one (20.0 mg, 0.0000846 mol) and N,N-diisopropylethylamine (44 μL, 0.00025 mol) in N,N-dimethylformamide (1.0 mL). The mixture was stirred at room temperature for 30 min, then adjusted to be acidic (pH to −2.0) with TFA, and diluted with methanol (0.8 mL). The resulting solution was purified by Prep-HPLC to give 8-benzoyl-2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one. LCMS: (M+H)+=341.20.

reactant | Benzoyl chloride | 0.00013 mol, 15 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one | 0.0000846 mol, 20.0 mg | C1(CCCCC1)N1C(C2(CC1)CCNCC2)=O | C14H24N2O
reactant | N,N-diisopropylethylamine | 0.00025 mol, 44 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | methanol | 0.8 mL | CO | CH4O
product | 8-benzoyl-2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one | C(C1=CC=CC=C1)(=O)N1CCC2(CCN(C2=O)C2CCCCC2)CC1 | C21H28N2O2
